US08039472B2
A mixture of methyl 4-hydroxybenzoate (0.5 g, 3.28 mmol), [6-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-naphthalen-2-yl]-methanol (0.9 g, 3.12 mmol) and triphenylphosphine (0.83 g, 3.16 mmol) in DCM (20 ml) is cooled to 0° C. Diethyl azodicarboxylate (0.5 ml, 3.17 mmol) is added dropwise. The reaction mixture is stirred at room temperature overnight. The reaction mixture is concentrated in vacuo and purified by column chromatography (SiO2, EtOAc/iso-hexane) to obtain white solid. The product obtained is once again purified by column chromatography (neutral alumina, EtOAc/petroleum ether) to obtain 4-[6-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-naphthalen-2-ylmethoxy]-benzoic acid methyl ester as white solid; 1H NMR (d6-DMSO): 1.32 (3H, s), 1.38 (3H, s), 3.77-3.82 (4H, m), 4.08-4.16 (3H, m), 4.46-4.49 (1H, m), 5.30 (2H, s), 7.15-7.21 (3H, m), 7.37 (1H, d, J=2.0 Hz), 7.53 (1H, dd, J=8.50, 1.5 Hz), 7.83 (2H, dd, J=9.0, 6.0 Hz), 7.92 (3H, m).

reactant | methyl 4-hydroxybenzoate | 3.28 mmol, 0.5 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | [6-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-naphthalen-2-yl]-methanol | 3.12 mmol, 0.9 g | CC1(OC[C@H](O1)COC=1C=C2C=CC(=CC2=CC1)CO)C | C17H20O4
reactant | triphenylphosphine | 3.16 mmol, 0.83 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 3.17 mmol, 0.5 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-[6-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-naphthalen-2-ylmethoxy]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCC1=CC2=CC=C(C=C2C=C1)OC[C@H]1OC(OC1)(C)C)=O | C25H26O6
